US09079916B2
A solution of (2-methoxybenzyl)zinc(II) chloride (4.44 mL, 0.5 M, 2.20 mmol) in THF and (DPPF)2PdCl2.CH2Cl2 (45 mg, 0.056 mmol) was stirred at room temperature for 20 minutes. To this, a slurry of 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-bromopyridin-3-yl)cyclopropanecarboxamide (200 mg, 0.56 mmol) in THF (4 mL) was added and the reaction mixture was heated to 150° C. in a microwave reactor for 10 minutes. The resulting material was cooled to room temperature. Na2EDTA and saturated aqueous NH4Cl were added to the reaction and the mixture was stirred at room temperature for 30 minutes. The product was extracted using dichloromethane. The organic layer was dried over anhydrous Na2SO4 and evaporated under reduced pressure. The crude product was purified by column chromatography on silica gel to yield 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-(2-methoxybenzyl)pyridin-3-yl)cyclopropanecarboxamide (152 mg, 68%).

reactant | (2-methoxybenzyl)zinc(II) chloride | 2.20 mmol, 0.5 M, 4.44 mL | [Cl-].COC1=C(C[Zn+])C=CC=C1
reactant | CH2Cl2 | 0.056 mmol, 45 mg | C(Cl)Cl | CH2Cl2
reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-bromopyridin-3-yl)cyclopropanecarboxamide | 0.56 mmol, 200 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=NC(=CC2)Br | C16H13BrN2O3
reactant | Na2EDTA | C(CN(CC(=O)O)CC(=O)[O-])N(CC(=O)O)CC(=O)[O-].[Na+].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-(2-methoxybenzyl)pyridin-3-yl)cyclopropanecarboxamide | 152 mg, 68% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=NC(=CC2)CC2=C(C=CC=C2)OC | C24H22N2O4
